US08357707B2
Stage A.2: N′-{6-[1-Dimethylamino-meth-(E)-ylidene]-7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl}-N,N-dimethyl-formamidine
A suspension of 2-amino-5,6-dihydro-4H-benzothiazol-7-one (3.5 g, 20.81 mmol) in dimethoxymethyldimethylamine (12 mL, 90 mmol) was heated at 100° C. with stirring for 65 h. The RM was then evaporated to dryness in vacuo and the residue was suspended in EtOAc. After 1 h at 4° C., the solid was filtered off, washed with EtOAc and then dried under high vacuum at 60° C. to give the pure title product as brown crystals. LC: tR 3.25 min (method D). MS: M+H=279. 1H-NMR in DMSO-d6: 8.40 (s, 1H); 7.23 (s, 1H); 3.15 (s, 3H); 3.05 (s, 6H); 2.97 (s, 3H); 2.91 (t, 2H); 2.67 (t, 2H).

reactant | 2-amino-5,6-dihydro-4H-benzothiazol-7-one | 20.81 mmol, 3.5 g | NC=1SC2=C(N1)CCCC2=O | C7H8N2OS
reactant | dimethoxymethyldimethylamine | 90 mmol, 12 mL | COC(OC)N(C)C | C5H13NO2
product | N′-{6-[1-Dimethylamino-meth-(E)-ylidene]-7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl}-N,N-dimethyl-formamidine | CN(\C=C/1\C(C2=C(N=C(S2)N=CN(C)C)CC1)=O)C | C13H18N4OS
